US06620811B2
A stirred suspension of 500 mg (1.11 mmol) 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide. 1.5 g (11.1 mmol) thiomorpholine and 725 mg (2.23 mmol) cesium carbonate in a thick-walled glass pressure tube fitted with a teflon cap was heated at 140° C. for 48 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with ethyl acetate, and the combined organic phases were washed with saturated brine, dried over sodium sulfate, and concentrated in vacuo. Flash chromatography (1/99 methanol/dichloromethane) followed by trituration in ether/ethyl acetate/hexane afforded 290 mg (55%) N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-thiomorpholin-4-yl-isonicotinamide as an off-white crystalline solid. ES-MS m/e (%)): 472 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | 1.11 mmol, 500 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | thiomorpholine | 11.1 mmol, 1.5 g | N1CCSCC1 | C4H9NS
reactant | cesium carbonate | 2.23 mmol, 725 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-thiomorpholin-4-yl-isonicotinamide | 290 mg, 55% | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CCSCC2)=O)N2CCOCC2 | C22H25N5O3S2
